data/rdb19/train.csv
rxn,smiles,ea
3264,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[H:25])([N:26]([C:27](=[O:28])[H:34])[H:33])[H:32])([H:29])([H:30])[H:31]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])[H:10])([H:7])([H:8])[H:9].[H:11][C:23]([C:22]([C:21]([H:29])([H:30])[H:31])([N:26]([C:27](=[O:28])[H:34])[H:33])[H:32])([H:24])[H:25],20.58478137804196
4971,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[O:17][C:16]([C:15]([H:21])([H:22])[H:23])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:10])[H:11])([H:7])([H:8])[H:9],29.65201357664773
923,[C:19]([C:20]([C:21]([H:22])[O:23][C:24](=[O:25])[C:26]([H:32])([H:33])[H:34])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([H:30])[H:31])([H:22])[O:23][C:24](=[O:25])[C:26]([H:32])([H:33])[H:34].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12],57.2414202663349
5073,[C:11]([C:12]([C:13]([H:14])[H:15])([N:16]([C:17](=[O:18])[H:24])[H:23])[H:22])([H:19])([H:20])[H:21].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[H:15])[N:16]([C:17](=[O:18])[H:24])[H:23])([H:19])([H:20])[H:21].[C:1]([H:5])([H:6])[H:7].[O:2]([C:3](=[C:4]([H:9])[H:10])[H:8])[H:22],70.69141910219332
2000,[C:11]([C:12]([C:13]([C:14]([H:21])([H:22])[H:23])[C:15]([H:24])([H:25])[H:26])([H:19])[H:20])([H:16])([H:17])[H:18].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12]([C:13]([C:14]([H:21])([H:22])[H:23])=[C:15]([H:25])[H:26])([H:19])[H:20])([H:16])([H:17])[H:18].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])[H:10])([H:8])[H:24])([H:6])[H:7],33.20832973055076
2567,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31])([H:26])([H:27])[H:28]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[H:31])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25])([H:26])([H:27])[H:28],22.593696446157992
2441,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9](=[O:10])[O:11][C:12](=[C:13]([H:18])[H:19])[H:17])([H:14])([H:15])[H:16]>>[C:1]([C:2]([H:3])([H:4])[O:11][C:12](=[C:13]([H:18])[H:19])[H:17])([H:5])([H:6])[H:7].[C:8]([C:9]=[O:10])([H:14])([H:15])[H:16],61.64359175463324
4264,[C:16]([O:17][C:18]([C:19]([H:27])([H:28])[H:29])([C:20]([H:21])[H:22])[H:26])([H:23])([H:24])[H:25].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:11])([H:12])[C:20]([C:18]([O:17][C:16]([H:23])([H:24])[H:25])([C:19]([H:27])([H:28])[H:29])[H:26])([H:21])[H:22])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],11.422371018270496
2082,[C:11]([H:12])([H:13])[H:14].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[H:8])([H:6])[H:7],11.644721549208043
4416,[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]([O:5])([O:6][H:12])[C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:7])([H:8])[H:9]>>[C:13]([C:14]([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]1([O:6][H:12])[O:5][C:15]1([C:16]([H:25])([H:26])[H:27])[C:17](=[O:18])[O:19][H:28])([H:7])([H:8])[H:9],39.34353087027557
7,[C:1]([C:2]([H:3])([H:4])[O:5][O:6][H:7])([H:8])([C:9]([H:11])([H:12])[O:14][O:13])[H:10]>>[C:1]1([H:8])([H:10])[C:9]([H:11])([H:12])[O:14][O:13]1.[C:2]([H:3])([H:4])=[O:5].[O:6][H:7],74.25226966635091
3300,[C:13]([C:14]([C:15]([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([H:8])([H:9])[C:15]([C:14]([C:13]([H:19])([H:20])[H:21])([H:22])[H:23])([H:16])[C:17]([C:18]([H:26])([H:27])[H:28])([H:24])[H:25])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7],17.643885616824264
4255,[C:16]([H:17])([H:18])[H:19].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([O:4][C:16]([H:17])([H:18])[H:19])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],29.515435246779816
